US07956070B2
Step 3: 6-Oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylic acid
A suspension of ethyl 6-oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylate (0.300 g) in concentrated hydrochloric acid (10 mL) was heated at reflux for 20 h. The reaction mixture was cooled and a colourless solid filtered off (0.30 g).

reactant | ethyl 6-oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylate | 0.300 g | O=C1C=CC(=C(N1)C(C(F)(F)F)(F)F)C(=O)OCC | C10H8F5NO3
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 6-Oxo-2-(pentafluoroethyl)-1,6-dihydropyridine-3-carboxylic acid | O=C1C=CC(=C(N1)C(C(F)(F)F)(F)F)C(=O)O | C8H4F5NO3
